US04617389
1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-(2-cyano-1-aziridinyl)-azirino[2',3':3,4]pyrrolo[1,2-a]indole-4,7-dione carbamate
A solution of mitomycin A (100 mg. or 0.286 mmol) in 8 ml of anhydrous methanol was treated with 2-cyanoaziridine (38.9 mg. or 0.572 mmol) and 30 mg. of potassium carbonate, under nitrogen at room temperature. When thin-layer chromatography on silica gel (2:8 methanol-chloroform as solvent) showed that starting material was no longer present, the mixture was diluted with 50 ml of methylene chloride, filtered, and evaporated under reduced pressure. The residue was purified by preparative thin-layer chromatography on silica gel with a mixture of methanol and chloroform (2:8 by volume) as the solvent. This procedure gave 33 mg. (30% yield) of the desired product having a melting point of 87°-89° C. (decomposing) and providing the following analysis:

reactant | mitomycin A | 0.286 mmol, 100 mg | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)OC | C16H19N3O6
reactant | 2-cyanoaziridine | 0.572 mmol, 38.9 mg | C(#N)C1NC1 | C3H4N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 8 ml | CO | CH4O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-(2-cyano-1-aziridinyl)-azirino[2',3':3,4]pyrrolo[1,2-a]indole-4,7-dione carbamate | 30% yield | C(N)(O)=O.OCC1C2(N(C=3C(C(=C(C(C13)=O)N1C(C1)C#N)C)=O)CC1C2N1)OC | InChI=1S/C17H18N4O4.CH3NO2/c1-7-12(20-4-8(20)3-18)15(24)11-9(6-22)17(25-2)16-10(19-16)5-21(17)13(11)14(7)23;2-1(3)4/h8-10,16,19,22H,4-6H2,1-2H3;2H2,(H,3,4)
